US07723347B2
2-Fluoro-N1-methyl-N1-1H-pyrrolo[2,3-b]pyridin-4-ylbenzene-1,4-diamine
9 mg of 10% palladium-on-carbon are added to a solution of 28 mg (0.08 mmol) of N-(2-fluoro-4-nitrophenyl)-N-methyl-1H-pyrrolo[2,3-b]pyridine-4-amine in 10 ml of ethanol, and the suspension is stirred in a hydrogen atmosphere at atmospheric pressure overnight. The suspension is filtered through kieselguhr and the kieselguhr is washed with ethanol. Concentration under reduced pressure gives the target product.

reactant | N-(2-fluoro-4-nitrophenyl)-N-methyl-1H-pyrrolo[2,3-b]pyridine-4-amine | 0.08 mmol, 28 mg | FC1=C(C=CC(=C1)[N+](=O)[O-])N(C=1C2=C(N=CC1)NC=C2)C | C14H11FN4O2
reactant | hydrogen | [H][H] | H2
solvent | ethanol | 10 ml | C(C)O | C2H6O
catalyst | palladium-on-carbon | 9 mg | [Pd] | Pd
product | 2-Fluoro-N1-methyl-N1-1H-pyrrolo[2,3-b]pyridin-4-ylbenzene-1,4-diamine | FC1=C(C=CC(=C1)N)N(C1=C2C(=NC=C1)NC=C2)C | C14H13FN4
